US06566367B2
Add a solution of oxazole (0.5 mL, 7.24 mmol) in deoxygenated THF (50 mL) at −78° C. to 1.6 M n-butyllithium in hexane (5 mL, 7.96 mmol). After stirring for 30 minutes, add 1M zinc chloride in Et2O (22 mL, 21.7 mmol) and warm the reaction mixture to 0° C. for 2 hours. To the reaction mixture, add first a solution of 1′-(5-iodo-1H-benzimidazol-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one (3.2 g, 7.18 mmol), then the palladium catalyst which is prepared by treating a suspension of (Ph3P)2PdCl2 (0.25 g, 0.36 mmol) in deoxygenated THF (50 mL) with 1.6 M n-butyllithium in hexane (0.45 mL, 0.72 mmol). Reflux the reaction mixture for 20 hours. After cooling to ambient temperature, dilute the mixture with EtOAc (50 mL), and wash with water (50 mL) and saturated aqueous NaCl (50 mL). Dry the organic portion over Na2SO4, filter and concentrate. Purify by flash column chromatography (5% MeOH—CH2Cl2) to obtain 1′-(5-oxazol-2-yl-1H-benzimidazol-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one as a white solid.

reactant | oxazole | 7.24 mmol, 0.5 mL | O1C=NC=C1 | C3H3NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 7.96 mmol, 5 mL | CCCCCC | C6H14
reactant | Et2O | 21.7 mmol, 22 mL | CCOCC | C4H10O
reactant | 1′-(5-iodo-1H-benzimidazol-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one | 7.18 mmol, 3.2 g | IC1=CC2=C(NC(=N2)N2CCC3(CC2)OC(C2=CC=CC=C23)=O)C=C1 | C19H16IN3O2
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 0.72 mmol, 0.45 mL | CCCCCC | C6H14
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | palladium | [Pd] | Pd
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | zinc chloride | 1M | [Cl-].[Zn+2].[Cl-]
catalyst | (Ph3P)2PdCl2 | 0.36 mmol, 0.25 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1′-(5-oxazol-2-yl-1H-benzimidazol-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one | O1C(=NC=C1)C1=CC2=C(NC(=N2)N2CCC3(CC2)OC(C2=CC=CC=C23)=O)C=C1 | C22H18N4O3
